US05288727
0.7 of magnesium(scraped shape) and 100 mg of a chip of iodine were added to 5 ml of anhydrous diethyl ether. 10 ml of anhydrous diethyl ether solution of 5.6 g of p-bromochlorobenzene was dropwise added thereto under nitrogen stream at a rate that was just fast enough to maintain a gentle reflux. This solution was stirred at room temperature for 20 minutes to react them, a solution of 4.8 g of p-tert-butylphenyl acetonitrile in 5 ml of anhydrous diethyl ether was dropwise added thereto at a rate that was just fast enough to maintain a gentle reflux. The solution was further stirred for 30 minutes to react them. After completion of the reaction, a mixture solution of 10 g of ice and 130 ml of 6N-hydrochloric acid was added thereto and a reaction product was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The redisue was purified by silica gel column chromatography (developing solvent: ethyl acetate/n-hexane=1/9) to obtain 1.3 g of 4'-chloro-2-(4-tert-butylphenyl)acetophenone. (2) 1.3 g of (4.5 mmol) of 4'-chloro-2-(4-tert-butylphenyl)acetophenone was dissolved in 15 ml of ethanol, and 0.2 g (4.5 mmol) of hydrazine monohydrate was added thereto. The mixture was refluxed under heating for three hours. After completion of the reaction, ethanol was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off to obtain 1.3 g of [4'-chloro-2-(4-tert-butylphenyl)acetophenone]hydrazone as a yellow oily substance.

reactant | iodine | II | I2
reactant | p-bromochlorobenzene | 5.6 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | p-tert-butylphenyl acetonitrile | 4.8 g | C(C)(C)(C)C1=CC=C(C=C1)CC#N | C12H15N
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4'-chloro-2-(4-tert-butylphenyl)acetophenone | 1.3 g | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)C(C)(C)C)=O | C18H19ClO
